* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : inv10f                                       *
* Netlisted  : Sun Dec  1 05:22:42 2024                     *
* Pegasus Version: 23.11-s009 Thu Aug 31 12:45:19 PDT 2023  *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 R(res_generic_m1) met1_res met1(P) met1(N)
*.DEVTMPLT 1 R(res_generic_m2) met2_res met2(P) met2(N)
*.DEVTMPLT 2 R(res_generic_m3) met3_res met3(P) met3(N)
*.DEVTMPLT 3 R(res_generic_m4) met4_res met4(P) met4(N)
*.DEVTMPLT 4 R(res_generic_m5) met5_res met5(P) met5(N)
*.DEVTMPLT 5 R(RES_GENERIC_ND) diff_res np_term(P) np_term(N)
*.DEVTMPLT 6 R(RES_GENERIC_PD) diff_res pp_term(P) pp_term(N)
*.DEVTMPLT 7 MN(nfet_01v8) nfet_01v8_rec nSourceDrain(D) nfet(G) nSourceDrain(S) pwell(B)
*.DEVTMPLT 8 MP(pfet_01v8) pfet_01v8_rec pSourceDrain(D) pfet(G) pSourceDrain(S) nwell(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: L1M1_C_CDNS_733026951062                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt L1M1_C_CDNS_733026951062 1
** N=1 EP=1 FDC=0
.ends L1M1_C_CDNS_733026951062

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nfet_01v8_CDNS_733026951060                     *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nfet_01v8_CDNS_733026951060 1 2 3
** N=7 EP=3 FDC=1
M0 2 3 1 1 nfet_01v8 L=1.55e-07 W=9.45e-07 $X=0 $Y=0 $dt=7
.ends nfet_01v8_CDNS_733026951060

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pfet_01v8_CDNS_733026951061                     *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pfet_01v8_CDNS_733026951061 1 2 3
** N=7 EP=3 FDC=1
M0 2 3 1 1 pfet_01v8 L=2.45e-07 W=8.65e-07 $X=0 $Y=0 $dt=8
.ends pfet_01v8_CDNS_733026951061

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: inv10f                                          *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt inv10f A VDD VSS Y
** N=9 EP=4 FDC=2
X0 Y L1M1_C_CDNS_733026951062 $T=720 1035 0 0 $X=605 $Y=690
X1 Y L1M1_C_CDNS_733026951062 $T=770 3090 0 0 $X=655 $Y=2745
X2 VSS Y A nfet_01v8_CDNS_733026951060 $T=425 555 0 0 $X=20 $Y=405
X3 VDD Y A pfet_01v8_CDNS_733026951061 $T=385 2670 0 0 $X=-60 $Y=2490
.ends inv10f
